US06274588B1
To a solution of 2.33 g (8.95 mmol) 2-methylsulfanyl-4-o-tolyl-pyrimidine-5-carboxylic acid, 1.25 ml triethylamine (8.95 mmol) and 1.68 ml (17.9 mmol) t-butanol in 30 ml THF, 1.97 ml (8.95 mmol) diphenylphosphorylazide were added and the resulting solution heated at reflux for 12 hrs. After evaporation of the solvent, the residue was distributed between CH2Cl2 and H2O. The aqueous phase was extracted twice with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 15:1) to give 1.95 g (65%) (2-methylsulfanyl-4-o-tolyl-pyrimidin-5-yl)-carbamic acid tert.-butyl ester as a colorless solid, MS (TSP): 331 (M+).

reactant | 2-methylsulfanyl-4-o-tolyl-pyrimidine-5-carboxylic acid | 8.95 mmol, 2.33 g | CSC1=NC=C(C(=N1)C1=C(C=CC=C1)C)C(=O)O | C13H12N2O2S
reactant | triethylamine | 8.95 mmol, 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 17.9 mmol, 1.68 ml | C(C)(C)(C)O | C4H10O
reactant | diphenylphosphorylazide | 8.95 mmol, 1.97 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (2-methylsulfanyl-4-o-tolyl-pyrimidin-5-yl)-carbamic acid tert.-butyl ester | 1.95 g, 65% | C(C)(C)(C)OC(NC=1C(=NC(=NC1)SC)C1=C(C=CC=C1)C)=O | C17H21N3O2S
